US05723450
4-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylamino)-3-methoxy-2-methylpyridine
6.5 g of 4-[O-benzyl-N-(3,3-dimethyl-1,5-dioxaspiro[5.5]undec-9-yl)hydroxylamino]-3-methoxy-2-methylpyridine in 70 ml of methanol are hydrogenated using 2 g of Raney nickel at normal pressure until absorption of hydrogen is complete. After filtering, the filtrate is concentrated and the product is dissolved in diisopropyl ether. Crystallization takes place on addition of hexane. 4.3 g=90%; m.p.: 45° C.

reactant | 4-[O-benzyl-N-(3,3-dimethyl-1,5-dioxaspiro[5.5]undec-9-yl)hydroxylamino]-3-methoxy-2-methylpyridine | 6.5 g | C(C1=CC=CC=C1)ON(C1CCC2(OCC(CO2)(C)C)CC1)C1=C(C(=NC=C1)C)OC | C25H34N2O4
solvent | methanol | 70 ml | CO | CH4O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 4-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylamino)-3-methoxy-2-methylpyridine | CC1(COC2(OC1)CCC(CC2)NC2=C(C(=NC=C2)C)OC)C | C18H28N2O3
